US07994176B2
Trifluoro-methanesulfonic acid 4-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5-dichloro-phenyl ester
Treat a mixture of 3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one (0.62 g, 1.04 mmol), pyridine (0.41 g, 5.21) and dichloromethane (15 mL) at 0° C. with trifluoromethanesulfonic anhydride (0.59 g, 2.08 mmol). Stir the reaction for 1 hour at 0° C. and 1 hour at room temperature. Remove excess pyridine in vacuo, and to the residue, add dichloromethane and wash with water and saturated ammonium chloride. Dry the organic layer (Na2SO4), remove the solvent in vacuo, and purify the crude product on silica gel column with 20% ethyl acetate in to afford 0.61 g (80%) of the title compound. MS (m/z): 728 (M+).

reactant | 3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-1-(2,6-dichloro-4-hydroxy-benzyl)-pyrrolidin-2-one | 1.04 mmol, 0.62 g | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)O)Cl)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H39Cl2NO3Si
reactant | pyridine | 0.41 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 2.08 mmol, 0.59 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5-dichloro-phenyl ester | 0.61 g, 80% | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)OS(=O)(=O)C(F)(F)F)Cl)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H38Cl2F3NO5SSi
